US07223776B2
1.e) (RS)-6-Methoxy-4-oxiranylquinoline
Trimethylsulphonium iodide (0.954 g, 4.67 mmol) and potassium hydroxide powder (1.8 g, 32 mmol) were added to a solution of 6-methoxy-quinoline-4-carbaldehyde (0.85 g, 4.54 mmol) in acetonitrile (13.5 ml) and water (6 drops). The reaction mixture was heated at 60° C. for one hour. The mixture was then cooled to room temperature and benzene (40 ml) was added. The precipitate was filtered off and the filtrate was concentrated to dryness by rotary evaporation. The residue was diluted with water (100 ml) and ethyl acetate (100 ml), the phases were separated, and the aqueous phase was extracted twice using 50 ml of ethyl acetate each time. The combined organic phases were dried over MgSO4, filtered and concentrated to dryness by rotary evaporation. The residue was purified by column chromatography on silica gel (EtOAc).

reactant | Trimethylsulphonium iodide | 4.67 mmol, 0.954 g | [I-].C[S+](C)C
reactant | potassium hydroxide | 32 mmol, 1.8 g | [OH-].[K+]
reactant | 6-methoxy-quinoline-4-carbaldehyde | 4.54 mmol, 0.85 g | COC=1C=C2C(=CC=NC2=CC1)C=O | C11H9NO2
reactant | benzene | 40 ml | C1=CC=CC=C1 | C6H6
solvent | acetonitrile | 13.5 ml | C(C)#N | C2H3N
catalyst | water | 6 drops | O | H2O
product | (RS)-6-Methoxy-4-oxiranylquinoline | COC=1C=C2C(=CC=NC2=CC1)C1OC1 | C12H11NO2
